US05145843
To 2.0 g of 4,7-dichloroquinoline was added 2.24 g of 4-fluoroaniline, and the mixture was heated with stirring to 160° C. After a few minutes at this temperature, the mixture smoked and the melt solidified. The solid was allowed to cool and was then dissolved in ethyl acetate and washed to remove the aniline. The organic layer was dried over MgSO<and then solvent was removed using reduced pressure. The residue was recrystallized in heptane to yield 1.27 g of 7-chloro-N-(4-fluorophenyl)-4-quinolinamine. M.P. 214°-16° C. (46.1% yield).

reactant | 4,7-dichloroquinoline | 2.0 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 4-fluoroaniline | 2.24 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-N-(4-fluorophenyl)-4-quinolinamine | 1.27 g, 46.1% yield | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)F | C15H10ClFN2
